US07820356B2
Synthesis of Hexyl Norbornene/Phenethyl Norbornene Copolymer (P2)
HxNB (2.78 g, 0.0156 mol), Phenyl ethyl norbornene (PENB, CAS 29415-09-6) (7.22 g, 0.036 mol), 1-hexene (2.18 g, 0.026 mol) and toluene (57.0 g) were combined in a 250 mL serum bottle and heated to 120° C. in an oil bath. To this solution were added Pd1446 (3.0E-3 g, 2.1E-6 mol) and DANFABA (6.7E-3 g, 8.4E-6 mol) in concentrated solutions of dichloromethane. After addition, the resulting mixture was maintained at 120° C. for 1 hour. After cooling to room temperature, the copolymer was precipitated by adding methanol drop wise into the reaction mixture. The solid copolymer was collected by filtration and dried at 80° C. in a vacuum oven. The solid polymer was dissolved in an appropriate amount of mesitylene to give 10 wt % solid copolymer solution After drying, 8.0 g was obtained (80%). The molecular weight of the polymer was determined by GPC methods in THF poly(styrene) standard) Mw=127,332; Mn=39,206. The composition of the polymer was determined by 1H-NMR: HxNB/PENB=22/78. The composition of the copolymer was determined by 1H-NMR to be 54/46 HxNB/diPhNB. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5601 in TE mode and 1.5585 in TM mode at a wavelength of 633 nm. The dried copolymer was dissolved in sufficient mesitylene to result in a 10 wt % copolymer solution.

reactant | Phenyl ethyl norbornene | 0.036 mol, 7.22 g | C1(=CC=CC=C1)C=1C2(CCC(C1)C2)CC | C15H18
reactant | 1-hexene | 0.026 mol, 2.18 g | C=CCCCC | C6H12
reactant | toluene | 57.0 g | C1(=CC=CC=C1)C | C7H8
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | Hexyl Norbornene Phenethyl Norbornene | C(CCCCC)C12C=CC(CC1)C2.C(CC1=CC=CC=C1)C12C=CC(CC1)C2 | InChI=1S/C15H18.C13H22/c1-2-4-13(5-3-1)6-9-15-10-7-14(12-15)8-11-15;1-2-3-4-5-8-13-9-6-12(11-13)7-10-13/h1-5,7,10,14H,6,8-9,11-12H2;6,9,12H,2-5,7-8,10-11H2,1H3
